US04804665
2-Cyanomethyloxy-2,8-diazaspiro[4,5]decane-1,3-dione
In a mixture solvent consisting of methanol (10 ml) and dimethylformamide (10 ml) was dissolved 8-benzyloxycarbonyl-2-cyanomethyl-2,8-diazaspiro[4,5]decane-1,3-dione (0.6 g). The solution was subjected to catalytic hydrogenation for 5 hours at room temperature and under atmospheric pressure, using palladium as the catalyst. The catalyst was removed, and the solvent was evaporated off, then, the residual solid was recrystallized from ethanol to obtain 0.38 g of a coloress solid, m.p. 273° to 278° C.

reactant | methanol | 10 ml | CO | CH4O
reactant | 8-benzyloxycarbonyl-2-cyanomethyl-2,8-diazaspiro[4,5]decane-1,3-dione | 0.6 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC(N(C2=O)CC#N)=O)CC1 | C18H19N3O4
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | palladium | [Pd] | Pd
product | 2-Cyanomethyloxy-2,8-diazaspiro[4,5]decane-1,3-dione | C(#N)CON1C(C2(CC1=O)CCNCC2)=O | C10H13N3O3
